US05731322
(±)-trans-2-Diethylaminocarbonyl-3,7-dimethyl-4a-(3-hydroxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[3,2-g]isoquinoline
0.29 g (0.71 mmol) of (±)-trans-2-diethylaminocarbonyl-3,7-dimethyl-4a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[3,2-g]isoquinoline were treated with 0.4 ml (4.26 mmol) of boron tribromide as described in example 2. The residue was purified by flash chromatography (CH2Cl2 /MeOH/conc. NH4OH 80:12:0.8). The crude product was triturated with a mixture of acetone/MeOH=3:2, yielding 0.14 g of the title compound. M.p.=235°-238 l ° C.

reactant | (±)-trans-2-diethylaminocarbonyl-3,7-dimethyl-4a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[3,2-g]isoquinoline | 0.71 mmol, 0.29 g | C(C)N(C(=O)C1=C(C=2C[C@]3(CCN(C[C@@H]3CC2N1)C)C1=CC(=CC=C1)OC)C)CC | C25H35N3O2
reactant | boron tribromide | 4.26 mmol, 0.4 ml | B(Br)(Br)Br | BBr3
product | (±)-trans-2-Diethylaminocarbonyl-3,7-dimethyl-4a-(3-hydroxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[3,2-g]isoquinoline | 0.14 g | C(C)N(C(=O)C1=C(C=2C[C@]3(CCN(C[C@@H]3CC2N1)C)C1=CC(=CC=C1)O)C)CC | C24H33N3O2
